US04766125
A mixture of 7.4 parts of 1,1'-(4-iodobutylidene)bis[4-fluorobenzene], 5.5 parts of N-(2-chloro-6-methylphenyl)-3-(hydroxymethyl)-1-piperazineacetamide, 4.0 parts of N,N-diethylethanamine and 68 parts of N,N-dimethylformamide was stirred for 4 hours at about 70° C. The reaction mixture was cooled overnight to room temperature and the solvent was evaporated. The residue was taken up in trichloromethane. The organic phase was washed with water, dried, filtered and evaporated. The oily residue was purified by column-chromatography over silica gel using a mixture of trichloromethane and methanol (95:5 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The oily residue solidified on triturating in 2,2'-oxybispropane. The product was filtered off and dried, yielding 3.21 parts (33.1%) of 4-[4,4-bis(4-fluorophenyl)butyl]-N-(2-chloro-6-methylphenyl)-3-(hydroxymethyl)-1-piperazineacetamide; mp. 149.8° C. (compound 51).

reactant | 1,1'-(4-iodobutylidene)bis[4-fluorobenzene] | ICCCC(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F | C16H15F2I
reactant | N-(2-chloro-6-methylphenyl)-3-(hydroxymethyl)-1-piperazineacetamide | ClC1=C(C(=CC=C1)C)NC(CN1CC(NCC1)CO)=O | C14H20ClN3O2
reactant | N,N-diethylethanamine | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 4-[4,4-bis(4-fluorophenyl)butyl]-N-(2-chloro-6-methylphenyl)-3-(hydroxymethyl)-1-piperazineacetamide | 33.1% | FC1=CC=C(C=C1)C(CCCN1C(CN(CC1)CC(=O)NC1=C(C=CC=C1C)Cl)CO)C1=CC=C(C=C1)F | C30H34ClF2N3O2
